US06825317B2
Step 4: H-Aib-L-Phe-D-Pro-OtBu
Z-Aib-L-Phe-D-Pro-OtBu (1.23 g, 2.28 mmol) was catalytically hydrogenated with Pd-C in acetic acid to remove the Z-group. After the reaction was continued for 10 hours, Pd-C was filtered off and acetic acid was concentrated. The residue was neutralized with 4% NaHCO3 and extracted into ethyl acetate. The extract was dried over Na2CO3 and concentrated to yield 0.726 g (1.80 mmol; 79%) of the titled compound.

reactant | Z-Aib-L-Phe-D-Pro-OtBu | 2.28 mmol, 1.23 g | N(C(C)(C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C30H39N3O6
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Pd-C | [Pd] | Pd
product | H-Aib-L-Phe-D-Pro-OtBu | NC(C)(C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)OC(C)(C)C)CCC1 | C22H33N3O4
